US04138489
One dissolves 54 g of 3,4-dimethoxy phenylhydrazine hydrochloride in a mixture of 750 mls of ethanol, 750 mls of water and 350 mls of 5% hydrochloric acid. It is heated under a reflux, and then one adds over a period of 5 minutes a solution of 63 g of 1-(4,4-diethoxybutyl)-2-piperidone in 250 mls of ethanol. After heating under a reflux for 2 hours and then cooling, one eliminates the ethanol by distillation under reduced pressure (20 mm of mercury) and then extracts successively with 500 mls, 300 mls and 200 mls of methylene chloride. The combined organic phases are washed with 500 mls of water and then 500 mls of a saturated solution of sodium bicarbonate, dried over magnesium sulphate and evaporated to dryness under reduced pressure (20 mm of mercury). The residue (58 g) is chromatographed over 1 kg of silica gel contained in a column with a diameter of 6 cm, collecting fractions of 500 mls and eluting with ethyl acetate containing 1.5% of methanol. Fractions 31 to 43 are combined and evaporated to dryness. In this way one obtains 17 g of 1-[2(5,6-dimethoxy-3-indolyl) ethyl]-2-piperidone in the form of a thick yellow oil which slowly crystallises.

reactant | 3,4-dimethoxy phenylhydrazine hydrochloride | 54 g | Cl.COC=1C=C(C=CC1OC)NN
reactant | water | 750 mls | O | H2O
reactant | hydrochloric acid | 350 mls | Cl | ClH
reactant | 1-(4,4-diethoxybutyl)-2-piperidone | 63 g | C(C)OC(CCCN1C(CCCC1)=O)OCC | C13H25NO3
solvent | ethanol | 750 mls | C(C)O | C2H6O
solvent | ethanol | 250 mls | C(C)O | C2H6O
product | 1-[2(5,6-dimethoxy-3-indolyl) ethyl]-2-piperidone | 17 g | COC=1C=C2C(=CNC2=CC1OC)CCN1C(CCCC1)=O | C17H22N2O3
